US07179830B2
b) 2-(2,6-Dimethylphenylamino)-1H-thieno[3,4-d]imidazole hydrochloride
was obtained in a similar manner to the method specified in Example 6b from 380 mg of N-(3-amino-4-thienyl)-N′-(2,6-dimethylphenyl)thiourea, 135.4 mg of NaOH and 287.3 mg of p-toluenesulfonyl chloride. Crystalline substance. M.p. >310° C.

reactant | N-(3-amino-4-thienyl)-N′-(2,6-dimethylphenyl)thiourea | 380 mg | NC1=CSC=C1NC(=S)NC1=C(C=CC=C1C)C | C13H15N3S2
reactant | NaOH | 135.4 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 287.3 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 2-(2,6-Dimethylphenylamino)-1H-thieno[3,4-d]imidazole hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC1=NC=2C(N1)=CSC2 | InChI=1S/C13H13N3S.ClH/c1-8-4-3-5-9(2)12(8)16-13-14-10-6-17-7-11(10)15-13;/h3-7H,1-2H3,(H2,14,15,16);1H
